US04254134
N-(1,3,4,9-tetrahydro-6-methoxy-2H-carbazol-2-yl)acetamide (Compound 2h)
A mixture of 0.05 mol of N-(3-oxocyclohexyl)acetamide, 0.05 mol of anhydrous NaOAc, 0.05 mol of 4-methoxyphenylhydrazine hydrochloride, and 155 ml of glacial HOAc was stirred for 1 hr at room temperature and then refluxed for 1 hr. The cooled reaction mixture was poured into H2O and the product triturated until solid. Filtration, drying, and recrystallization from ethanol gave the title compound, mp 191°-193°.

reactant | N-(3-oxocyclohexyl)acetamide | 0.05 mol | O=C1CC(CCC1)NC(C)=O | C8H13NO2
reactant | NaOAc | 0.05 mol | CC(=O)[O-].[Na+]
reactant | 4-methoxyphenylhydrazine hydrochloride | 0.05 mol | Cl.COC1=CC=C(C=C1)NN
reactant | HOAc | 155 ml | CC(=O)O | C2H4O2
solvent | H2O | O | H2O
product | N-(1,3,4,9-tetrahydro-6-methoxy-2H-carbazol-2-yl)acetamide | COC=1C=C2C=3CCC(CC3NC2=CC1)NC(C)=O | C15H18N2O2
